US07199147B2
A 6N-aqueous sodium hydroxide solution (3.8 ml, 23 mmol) was added dropwise to a solution of 1-acetyl-5-methoxy-4-(trifluoromethyl)-1H-indazole (493 mg, 1.91 mmol) in a mixture of methanol (3.8 ml) and tetrahydrofuran (3.8 ml) at room temperature and stirred at room temperature for 5 hours while maintaining the temperature. The resulting reaction solution was adjusted to pH 8 to 9 by dropwise addition of 12N-aqueous hydrochloric acid solution (1.5 ml) and then a 1N aqueous hydrochloric acid solution (about 2 ml), and distilled under reduced pressure to remove the organic solvent. The white precipitate formed was diluted with water, filtered, washed with water, and then dried under reduced pressure to obtain 5-methoxy-4-(trifluoromethyl)-1H-indazole (400 mg, 97%).

reactant | sodium hydroxide | 23 mmol, 3.8 ml | [OH-].[Na+]
reactant | 1-acetyl-5-methoxy-4-(trifluoromethyl)-1H-indazole | 1.91 mmol, 493 mg | C(C)(=O)N1N=CC2=C(C(=CC=C12)OC)C(F)(F)F | C11H9F3N2O2
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | methanol | 3.8 ml | CO | CH4O
solvent | tetrahydrofuran | 3.8 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-methoxy-4-(trifluoromethyl)-1H-indazole | 400 mg, 97% | COC=1C(=C2C=NNC2=CC1)C(F)(F)F | C9H7F3N2O
